US05367079
Using an analogous procedure to that described in Example 2, (1SR,3RS,4SR)-3-(3-benzyloxyphenyl)-4-methylcyclohexan-l-ol was reacted with methyl iodide to give (1SR,3RS,4SR)-3-(3-benzyloxyphenyl)-1-methoxy-4-methylcyclohexane in 65% yield as an oil.

reactant | (1SR,3RS,4SR)-3-(3-benzyloxyphenyl)-4-methylcyclohexan-l-ol | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1CC(CCC1C)O | C20H24O2
reactant | methyl iodide | CI | CH3I
product | (1SR,3RS,4SR)-3-(3-benzyloxyphenyl)-1-methoxy-4-methylcyclohexane | 65% yield | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1CC(CCC1C)OC | C21H26O2
